US05663346
5-guanidino-3-[(7-azaindol-3-yl)methylene]-2-oxindole;
A mixture of 5-amino-3-[(7-azaindol-3-yl)methylene]-2-oxindole (2.773 g, 10 mmol) and sodium bicarbonate (0.168 g, 2 mmol) in refluxing ethanol (100 ml) was treated with 3,5-dimethylpyrazole-1-carboxamidine nitrate (3.018 g, 15 mmol) for 20 h. The solvent was removed from the cooled solution, and the residue was chromatographed on silica gel with gradient elution (1 to 5% EtOH in CHCl3) to afford pure title compound in about 50% yield.

reactant | 5-amino-3-[(7-azaindol-3-yl)methylene]-2-oxindole | 10 mmol, 2.773 g | NC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C16H12N4O
reactant | sodium bicarbonate | 2 mmol, 0.168 g | C([O-])(O)=O.[Na+]
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 15 mmol, 3.018 g | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-guanidino-3-[(7-azaindol-3-yl)methylene]-2-oxindole | about 50% yield | N(C(=N)N)C=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C17H14N6O
